US09162986B2
Proceeding as in Reference 23, but substituting 6-benzyloxy-5′-fluoro-5-formyl-2′-methoxybiphenyl-3-carboxylic acid methyl ester (1.3 g, 3.30 mmol) and 3, 4-diaminobenzamidine hydrochloride (0.739 g, 3.96 mmol), gave 5-(5-carbamimidoyl-1H-benzoimidazol-2-yl)-5′-fluoro-6,2′-dihydroxy-biphenyl-3-carboxylic acid (0.780 g).

reactant | 6-benzyloxy-5′-fluoro-5-formyl-2′-methoxybiphenyl-3-carboxylic acid methyl ester | 3.30 mmol, 1.3 g | COC(=O)C=1C=C(C(=C(C1)C=O)OCC1=CC=CC=C1)C1=C(C=CC(=C1)F)OC | C23H19FO5
reactant | 3, 4-diaminobenzamidine hydrochloride | 3.96 mmol, 0.739 g | Cl.NC=1C=C(C(=N)N)C=CC1N
product | 5-(5-carbamimidoyl-1H-benzoimidazol-2-yl)-5′-fluoro-6,2′-dihydroxy-biphenyl-3-carboxylic acid | 0.780 g | C(N)(=N)C1=CC2=C(NC(=N2)C=2C=C(C=C(C2O)C2=C(C=CC(=C2)F)O)C(=O)O)C=C1 | C21H15FN4O4
